US07045539B2
Synthetic Method I: Synthesis of 4-chloro-2-(2-chloro-4-hydroxy-phenyl)-benzooxazol-6-ol
To 4-chloro-2-(2-chloro-4-methoxy-phenyl)-6-methoxybenzooxazole (52 mg) in CH2Cl2 (2 mL) placed in and ice water bath was added drop wise 1.0 M BBr3 in CH2Cl2 (0.96 mL, 6 eq). After the reaction stirred over night, the mixture was placed in an ice water bath and excess MeOH was added drop wise to quench excess BBr3 and the mixture was stirred for an additional 20 min and concentrated. Flash chromatography on silica gel eluting with 0% to 40% ethyl acetate-hexane afforded 35 mg (74%) of the title compound as a solid. MS: 296 (MH+), HPLC tR: 2.32 min.

reactant | 4-chloro-2-(2-chloro-4-methoxy-phenyl)-6-methoxybenzooxazole | 52 mg | ClC1=CC(=CC2=C1N=C(O2)C2=C(C=C(C=C2)OC)Cl)OC | C15H11Cl2NO3
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.96 mL, 6 eq | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-(2-chloro-4-hydroxy-phenyl)-benzooxazol-6-ol | 35 mg, 74% | ClC1=CC(=CC2=C1N=C(O2)C2=C(C=C(C=C2)O)Cl)O | C13H7Cl2NO3
